US05086055
5-[2-[4-(4-Bromophenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone
This compound was prepared according to the procedure of Example 2. A mixture of 3.6 g (0.015 mol) of 1-(4-bromophenyl)piperazine, 2.5 g (0.015 mol) of 5-(2-chloroethyl)-3-methyl-2-oxazolidinone, 4.8 g (0.045 mol) of anhydrous sodium carbonate and 0.4 g of potassium iodide in 100 mL of 1-butanol heated at reflux for 22 h gave 4.2 g (76%) of white solid, mp 125°-127° C. (2-propanol).

reactant | 1-(4-bromophenyl)piperazine | 0.015 mol, 3.6 g | BrC1=CC=C(C=C1)N1CCNCC1 | C10H13BrN2
reactant | 5-(2-chloroethyl)-3-methyl-2-oxazolidinone | 0.015 mol, 2.5 g | ClCCC1CN(C(O1)=O)C | C6H10ClNO2
reactant | sodium carbonate | 0.045 mol, 4.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
solvent | 1-butanol | 100 mL | C(CCC)O | C4H10O
solvent | 2-propanol | CC(C)O | C3H8O
product | 5-[2-[4-(4-Bromophenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone | 4.2 g, 76% | BrC1=CC=C(C=C1)N1CCN(CC1)CCC1CN(C(O1)=O)C | C16H22BrN3O2
